US04151357
(E,Z,E) and (E,E,E)-7-hydroxymethyl-3,11,15-trimethyl-2,6,10,14-hexadecatetraen-1-ol disulfate pyridine salt
Following the same manner as in Example 26, the reaction was conducted with 3.0 g of (E,Z,E) and (E,E,E)-7-hydroxymethyl-3,11,15-trimethyl-2,6,10,14-hexadecatetraen-1-ol and 5.0 g of anhydrous sulfuric acid-pyridine reagent in anhydrous benzene and after-treatment was conducted to afford 4.4 g of the end product.

reactant | (E,E,E)-7-hydroxymethyl-3,11,15-trimethyl-2,6,10,14-hexadecatetraen-1-ol | OC/C(=C/CC/C(=C/CO)/C)/CC\C=C(\CCC=C(C)C)/C | C20H34O2
reactant | sulfuric acid pyridine | 5.0 g | S(O)(O)(=O)=O.N1=CC=CC=C1
solvent | benzene | C1=CC=CC=C1 | C6H6
product | (E,E,E)-7-hydroxymethyl-3,11,15-trimethyl-2,6,10,14-hexadecatetraen-1-ol disulfate pyridine salt | 4.4 g | N1=CC=CC=C1.S(=O)(=O)(O)OS(=O)(=O)O.OC/C(=C/CC/C(=C/CO)/C)/CC\C=C(\CCC=C(C)C)/C | InChI=1S/C20H34O2.C5H5N.H2O7S2/c1-17(2)8-5-9-18(3)10-6-12-20(16-22)13-7-11-19(4)14-15-21;1-2-4-6-5-3-1;1-8(2,3)7-9(4,5)6/h8,10,13-14,21-22H,5-7,9,11-12,15-16H2,1-4H3;1-5H;(H,1,2,3)(H,4,5,6)/b18-10+,19-14+,20-13+;;
